US07129235B2
1-pyrimidin-2-yl-1,2,3,6-tetrahydropyridine-4-carboxylic acid
2-Chloropyrimidine (0.570 g, 4.98 mmol) and 1,2,3,6-tetrahydro-4-pyridinecarboxylic acid (1.22 g) were combined in water (7 mL) and heated at 90° C. After 4 hours, the mixture was treated with additional 1,2,3,6-tetrahydro-4-pyridinecarboxylic acid (0.52 g) and stirred overnight. The mixture was diluted with water and extracted with CH2Cl2. The aqueous layer was acidified with concentrated HCl (pH˜3) and extracted with CHCl3. The organic layer was dried (Na2SO4), filtered, and the filtrate was concentrated under reduced pressure to provide the title.

reactant | 2-Chloropyrimidine | 4.98 mmol, 0.570 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 1,2,3,6-tetrahydro-4-pyridinecarboxylic acid | 1.22 g | N1CCC(=CC1)C(=O)O | C6H9NO2
reactant | 1,2,3,6-tetrahydro-4-pyridinecarboxylic acid | 0.52 g | N1CCC(=CC1)C(=O)O | C6H9NO2
solvent | water | 7 mL | O | H2O
product | 1-pyrimidin-2-yl-1,2,3,6-tetrahydropyridine-4-carboxylic acid | N1=C(N=CC=C1)N1CCC(=CC1)C(=O)O | C10H11N3O2
